US04021479
4-(2'-Nitro-4'-methyl-4-biphenylyl)-4-hydroxy-butyric acid
Prepared analogous to Example 25 from 4-(2'-nitro-4'-methyl-4-biphenylyl)-4-oxo-butyric acid. Yield: 68% of theory. Melting point of the cyclohexylamine salt: 156°-157° C. (from isopropanol).

reactant | 4-(2'-nitro-4'-methyl-4-biphenylyl)-4-oxo-butyric acid | [N+](=O)([O-])C1=C(C=CC(=C1)C)C1=CC=C(C=C1)C(CCC(=O)O)=O | C17H15NO5
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
solvent | isopropanol | C(C)(C)O | C3H8O
product | 4-(2'-Nitro-4'-methyl-4-biphenylyl)-4-hydroxy-butyric acid | Yield: 68% | [N+](=O)([O-])C1=C(C=CC(=C1)C)C1=CC=C(C=C1)C(CCC(=O)O)O | C17H17NO5
